US07132425B2
A mixture of potassium ferricyanide (375 mg, 1.14 mmol), potassium carbonate (160 mg, 1.16 mmol), and (DHQ)2PHAL (7 mg, 0.00898 mmol) was treated with a solution of water/tert-butyl alcohol (10 mL, 1:1) and stirred at 25° C. for 5 min. The reaction mixture was cooled to 0° C. and then treated with a 0.2M solution of osmium tetroxide in toluene (17 μL, 0.0034 mmol) followed by a mixture of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-vinyl-pyrazin-2-yl)-propionamide (175 mg, 0.374 mmol) in water/tert-butyl alcohol (2 mL, 1:1). The heterogeneous mixture was stirred for 10 min, and the cooling bath was removed. After 30 min, there was still undissolved vinyl substrate and an additional amount of tert-butyl alcohol (2 mL) was added to the reaction mixture. The stirring was continued for 18 h. The mixture was then treated while stirring with ethyl acetate (20 mL) and sodium metabisulfite (150 mg, 0.79 mmol), and the stirring continued for 15 min. The phases were separated, and the organic layer was washed with a saturated aqueous sodium chloride solution (2×25 mL). Each aqueous phase was back-extracted with ethyl acetate (25 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1/3 to 1/1 ethyl acetate/hexanes) afforded the 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1(S),2-dihydroxy-ethyl)-pyrazin-2-yl]-propionamide (50 mg) as a colorless foam: (ES)+-HRMS m/e calcd for C21H26ClN3O5S (M+H)+ 468.1355, found 468.1360.

reactant | potassium carbonate | 1.16 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(5-vinyl-pyrazin-2-yl)-propionamide | 0.374 mmol, 175 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)C=C)CC1CCCC1 | C21H24ClN3O3S
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium metabisulfite | 0.79 mmol, 150 mg | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water tert-butyl alcohol | 2 mL | O.C(C)(C)(C)O
catalyst | potassium ferricyanide | 1.14 mmol, 375 mg | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
catalyst | (DHQ)2PHAL | 0.00898 mmol, 7 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
catalyst | toluene | 0.0034 mmol, 17 μL | C1(=CC=CC=C1)C | C7H8
solvent | water tert-butyl alcohol | 10 mL | O.C(C)(C)(C)O
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1(S),2-dihydroxy-ethyl)-pyrazin-2-yl]-propionamide | 50 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)[C@@H](CO)O)CC1CCCC1 | C21H26ClN3O5S
